US06664293B2
To a solution of 1-tert-butoxycarbonylamino-4-methylcyclohex-3-ene (0.4 g) in a mixture of anisole (0.4 ml) and dichloromethane (0.8 ml) was added trifluoroacetic acid (1.2 ml) at 0° C. and the mixture was allowed to stir at 0° C. for 1 hour. Evaporation gave a residue, which was taken up into a solution of hydrogen chloride in dioxane (4N, 2 ml). Evaporation under reduced pressure and trituration with diisopropyl ether gave 1-amino-4-methylcyclohex-3-ene hydrochloride, which was used without further purification.

reactant | 1-tert-butoxycarbonylamino-4-methylcyclohex-3-ene | 0.4 g | C(C)(C)(C)OC(=O)NC1CC=C(CC1)C | C12H21NO2
reactant | trifluoroacetic acid | 1.2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | hydrogen chloride | Cl | ClH
solvent | anisole | 0.4 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | dichloromethane | 0.8 ml | ClCCl | CH2Cl2
solvent | dioxane | 4N, 2 ml | O1CCOCC1 | C4H8O2
product | 1-amino-4-methylcyclohex-3-ene hydrochloride | Cl.NC1CC=C(CC1)C | InChI=1S/C7H13N.ClH/c1-6-2-4-7(8)5-3-6;/h2,7H,3-5,8H2,1H3;1H
